US07619086B2
Step 3: 6-(Cyclopropylmethyl)-2-(4-fluorobenzyl)-8-hydroxy-5,5-dimethyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione
To a cooled solution (0° C.) of ethyl ((cyclopropylmethyl){1-[1-(4-fluorobenzyl)-2-oxopiperidin-4-yl]-1-methylethyl}amino)(oxo)acetate (1.56 g, 3.73 mmol) in DMF (15 mL) was added LiHMDS (1M in THF, 5.59 mL, 5.59 mmol) dropwise over 1 min. After stirring for 3 hours, the product mixture was concentrated under vacuum and purified using reverse phase HPLC on C18 stationary phase eluting with a gradient of 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compound as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.26 (m, 2H), 7.04 (t, J=8.6 Hz, 2H), 4.61 (s, 2H), 3.41 (d, J=6.8 Hz, 2H), 3.32 (d, J=2.8 Hz, 1H), 3.31 (s, 1H), 2.87 (dd, J=13.2; 4.2 Hz, 2H), 1.93 (m, 1H), 1.65 (m, 1H), 1.44 (s, 3H), 1.21 (s, 3H), 1.02 (m, 1H), 0.47 (m, 3H), 0.36 (m, 1H) ppm. ES MS M+1=373.

reactant | ethyl ((cyclopropylmethyl){1-[1-(4-fluorobenzyl)-2-oxopiperidin-4-yl]-1-methylethyl}amino)(oxo)acetate | 3.73 mmol, 1.56 g | C1(CC1)CN(C(C)(C)C1CC(N(CC1)CC1=CC=C(C=C1)F)=O)C(C(=O)OCC)=O | C23H31FN2O4
reactant | LiHMDS | 5.59 mmol, 1M, 5.59 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 6-(Cyclopropylmethyl)-2-(4-fluorobenzyl)-8-hydroxy-5,5-dimethyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione | C1(CC1)CN1C(C2CCN(C(C2=C(C1=O)O)=O)CC1=CC=C(C=C1)F)(C)C | C21H25FN2O3
